US09024018B2
N-Cyclopropyl-2-(3-methyl-4-oxo-3,4-dihydroimidazo[5,1-d][1, 2, 3, 5]tetrazin-8-yl)thiazole-4-carboxamide (WW-008)
To a solution of 3-(imino(3-methyl-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazin-8-yl)methylthio)-2-oxopropanoic acid (0.500 g; 1.8 mmol) in dry THF (30 mL) under nitrogen was added isobutyl chloroformate (0.47 mL; 3.6 mmol), followed by triethylamine (0.51 mL; 3.6 mmol). The mixture was stirred for 1 hours, and then cyclopropylamine (0.206 g; 3.6 mmol) was added, and stirring continued for a further 3 hours. The precipitate was filtered, washed with water (5×20 mL) and diethyl ether (2×15 mL) to yield the title compound as a pale yellow solid (0.278 g; 49%). δH (DMSO-d6) 8.94 (1H, s), 8.41 (1H, s), 8.22 (1H, d, J=4.3), 3.89 (3H, s), 2.88 (1H, m), 0.66-0.76 (4H, m).

reactant | 3-(imino(3-methyl-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazin-8-yl)methylthio)-2-oxopropanoic acid | 1.8 mmol, 0.500 g | N=C(SCC(C(=O)O)=O)C=1N=CN2C1N=NN(C2=O)C | C9H8N6O4S
reactant | isobutyl chloroformate | 3.6 mmol, 0.47 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | triethylamine | 3.6 mmol, 0.51 mL | C(C)N(CC)CC | C6H15N
reactant | cyclopropylamine | 3.6 mmol, 0.206 g | C1(CC1)N | C3H7N
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | N-Cyclopropyl-2-(3-methyl-4-oxo-3,4-dihydroimidazo[5,1-d][1, 2, 3, 5]tetrazin-8-yl)thiazole-4-carboxamide | 0.278 g, 49% | C1(CC1)NC(=O)C=1N=C(SC1)C=1N=CN2C1N=NN(C2=O)C | C12H11N7O2S
